US08034812B2
Production of N-[5-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)-2-fluorophenyl]-3-ethyl-1-methyl-1H-pyrazole-5-carboxamide
Using N-[6-(3-amino-4-fluorophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide (327 mg, 1.0 mmol), 3-ethyl-1-methyl-1H-pyrazole-5-carboxylic acid (170 mg, 1.1 mmol) tetrahydrofuran (2.0 mL), N,N-dimethylformamide (1 drop), thionyl chloride (0.08 mL, 1.1 mmol) and N,N-dimethylacetamide (6.0 mL), and by a reaction in the same manner as in Example 203, the title compound (256 mg, 55%) was obtained as colorless crystals. melting point 236° C.

reactant | N-[6-(3-amino-4-fluorophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide | 1.0 mmol, 327 mg | NC=1C=C(OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)C=CC1F | C16H14FN5O2
reactant | 3-ethyl-1-methyl-1H-pyrazole-5-carboxylic acid | 1.1 mmol, 2.0 mL, 170 mg | C(C)C1=NN(C(=C1)C(=O)O)C | C7H10N2O2
reactant | thionyl chloride | 1.1 mmol, 0.08 mL | S(=O)(Cl)Cl | Cl2OS
catalyst | N,N-dimethylformamide | 1 drop | CN(C=O)C | C3H7NO
solvent | N,N-dimethylacetamide | 6.0 mL | CN(C(C)=O)C | C4H9NO
product | N-[5-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)-2-fluorophenyl]-3-ethyl-1-methyl-1H-pyrazole-5-carboxamide | 256 mg, 55% | C1(CC1)C(=O)NC=1N=C2N(N=C(C=C2)OC=2C=CC(=C(C2)NC(=O)C2=CC(=NN2C)CC)F)C1 | C23H22FN7O3
